US09085555B2
B. (1R,3S,5R)-2-Azabicyclo[3.1.0]hexane-3-carboxylic acid allyl ester hydrochloride
To (1R,3S,5R)-2-azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-allyl ester 2-tert-butyl ester (1.69 g, 6.32 mmol) was added HCl 4N in dioxane (15.8 mL, 63.2 mmol). The reaction mixture was stirred for 6 h at RT and subsequently lyophilized. MS: 168.0 [M+H]+.

reactant | (1R,3S,5R)-2-azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-allyl ester 2-tert-butyl ester | 6.32 mmol, 1.69 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)OCC=C | C14H21NO4
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 63.2 mmol, 15.8 mL | O1CCOCC1 | C4H8O2
product | (1R,3S,5R)-2-Azabicyclo[3.1.0]hexane-3-carboxylic acid allyl ester hydrochloride | Cl.C(C=C)OC(=O)[C@H]1N[C@@H]2C[C@@H]2C1 | InChI=1S/C9H13NO2.ClH/c1-2-3-12-9(11)8-5-6-4-7(6)10-8;/h2,6-8,10H,1,3-5H2;1H/t6-,7-,8+;/m1./s1
